US05288750
3-(4-Cyanobenzylidene)-2,4-pentanedione
4-Cyanobenzaldehyde (2.62 g) was condensed with 2,4-pentanedione (3.0 g) in 2-propanol (10 ml) in the presence of ammonium acetate. Mp 86°-88° C., yield 0.55 g (13 %).

reactant | 4-Cyanobenzaldehyde | 2.62 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 2,4-pentanedione | 3.0 g | CC(CC(C)=O)=O | C5H8O2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | 3-(4-Cyanobenzylidene)-2,4-pentanedione | C(#N)C1=CC=C(C=C(C(C)=O)C(C)=O)C=C1 | C13H11NO2
